US08835420B2
Step C: 6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine
A solution of 6-bromo-1H-pyrrolo[3,2-b]pyridine (54 kg from multiple batches based on wt % assay, 274 mol) in ethyl acetate from the previous step was distilled under vacuum at 45±5° C. to a volume of about 110 L (2 L/kg) and then cooled to 25±5° C. Dimethylcarbonate (33.0 kg, 367 mol) and Et3N (22.0 kg, 217 mol) were added and the mixture was distilled under vacuum at 50±5° C. to a volume of about 85 L. N,N-dimethylformamide (82.5 kg, 1.6 L/kg) was added and the mixture was distilled under vacuum at 50±5° C. until no distillate was observed. The mixture was cooled to 25±5° C., and dimethylcarbonate (165 kg, 1833 mol), Et3N (60.5 kg, 598 mol), and tetrabutylammonium bromide (11.0 kg) were added. The reaction mixture was heated to 88±5° C. After 12 hours at 105-110° C. (jacket temperature), which corresponded to 83-85° C. reaction mixture temperature, HPLC analysis indicated 59.6% of the starting material remained. The jacket temperature was increased to 115-120° C. (corresponding to 84-87° C. reaction mixture temperature). After 18 hours at 115-120° C. (jacket temperature) HPLC analysis indicated 0.2% of the starting material remained. The mixture was cooled to 25° C. and then concentrated under vacuum at 55±5° C. to remove most of the dimethylcarbonate and Et3N. Next, the mixture was cooled to 25° C. and MTBE (340 kg) was added, followed by water (440 kg). The mixture was stirred for 30 minutes. Stirring was stopped and the mixture was left for 30 minutes for phase separation to occur. The aqueous phase was extracted with MTBE (2×209 kg). The MTBE phases were combined and washed with brine solution (286 kg). Activated charcoal (2.7 kg) was added to the organic phase, which was stirred for 1 hour and then filtered through a pad of Celite. The filter cake was washed with MTBE (55 kg). The organic layers were combined (750 kg, 6.45% by HPLC-assay) and distilled to dryness to obtain the title compound as yellow oil (48.4 kg). The product was used directly in the next step without further purification.

reactant | 6-bromo-1H-pyrrolo[3,2-b]pyridine | 274 mol, 54 kg | BrC=1C=C2C(=NC1)C=CN2 | C7H5BrN2
reactant | Dimethylcarbonate | 367 mol, 33.0 kg | COC(OC)=O | C3H6O3
reactant | Et3N | 217 mol, 22.0 kg | CCN(CC)CC | C6H15N
reactant | dimethylcarbonate | 1833 mol, 165 kg | COC(OC)=O | C3H6O3
reactant | Et3N | 598 mol, 60.5 kg | CCN(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutylammonium bromide | 11.0 kg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine | 48.4 kg | BrC=1C=C2C(=NC1)C=CN2C | C8H7BrN2
